US04490392
A mixture of the α-(α-methyl-4-methoxyphenethylimino)-2-methoxyacetophenone solution, 0.76 g of sodium borohydride and 12 ml of ethanol is treated in the same manner as described in Example 1-(3), whereby α-[(α-methyl-4-methoxyphenethylamino)methyl]-2-methoxybenzylalcohol [the mixture of two diastereoisomers] is obtained as a crude oil. Said benzylalcohol [i.e., the mixture of two diastereoisomers] is treated with ethanolic hydrogen chloride to convert it into its hydrochloride, and the hydrochloride is recrystallized from a mixture of ethanol and ether. The crystalline precipitates are collected by filtration (the filtrate is hereinafter referred to as "mother liquor"). 1.85 g of α-[(α-methyl-4-methoxyphenethylamino)methyl]-2-methoxybenzylalcohol hydrochloride [the diastereoisomer of M.p. 161°-163° C.] is thereby obtained.

reactant | α-(α-methyl-4-methoxyphenethylimino)-2-methoxyacetophenone | CC(CC1=CC=C(C=C1)OC)N=C(C(=O)C1=CC=CC=C1)OC | C19H21NO3
reactant | sodium borohydride | 0.76 g | [BH4-].[Na+]
reactant | α-[(α-methyl-4-methoxyphenethylamino)methyl]-2-methoxybenzylalcohol | CC(CC1=CC=C(C=C1)OC)NCC(C1=C(C=CC=C1)OC)O | C19H25NO3
reactant | benzylalcohol | C(C1=CC=CC=C1)O | C7H8O
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | α-[(α-methyl-4-methoxyphenethylamino)methyl]-2-methoxybenzylalcohol hydrochloride | 1.85 g | Cl.CC(CC1=CC=C(C=C1)OC)NCC(C1=C(C=CC=C1)OC)O | InChI=1S/C19H25NO3.ClH/c1-14(12-15-8-10-16(22-2)11-9-15)20-13-18(21)17-6-4-5-7-19(17)23-3;/h4-11,14,18,20-21H,12-13H2,1-3H3;1H
